US04868332
5-Hydroxy-1-tetralone
1 mol of 5-methoxy-1-tetralone are dissolved in 5 l of methylene chloride and the solution is cooled to -78° C. 500 ml of boron tribromide in 2.3 1 of methylene chloride are added dropwise to this solution. The mixture is stirred at -78° C. for 30 minutes and then at 0° C. for 2.5 hours and cooled again to -78° and 3 l of methanol are slowly added dropwise. The mixture is evaporated, the residue is taken up in methylene chloride and the mixture is extracted 3 times with 10% strength sodium hydroxide solution. The combined sodium hydroxide solutions are acidified with concentrated hydrochloric acid and extracted 3 times by shaking with methylene chloride. After drying over sodium sulphate, the extract is evaporated. The residue is pure product and does not need to be recrystallized. The melting point is 210°-215° C.

reactant | 5-methoxy-1-tetralone | 1 mol | COC1=C2CCCC(C2=CC=C1)=O | C11H12O2
reactant | boron tribromide | 500 ml | B(Br)(Br)Br | BBr3
reactant | methanol | 3 l | CO | CH4O
solvent | methylene chloride | 5 l | C(Cl)Cl | CH2Cl2
product | 5-Hydroxy-1-tetralone | OC1=C2CCCC(C2=CC=C1)=O | C10H10O2
